US04128562
7 g of potassium carbonate and 9.4 g of O,O-diethyl chlorothiophosphate were added to a solution of 9.8 g of 2-cyano-3-hydroxy-5-n-butoxy-thiophene in 150 ml of acetonitrile and the mixture was stirred for 24 hours at 20° C. and was filtered. The filtrate was evaporated to dryness under reduced pressure and the residue was chromatographed over silica gel. Elution with benzene yielded 14 g of 2-cyano-3-(diethoxythiophosphoryloxy)-5-n-butoxy-thiophene with a refractive index of nD20 = 1.525.

reactant | potassium carbonate | 7 g | C([O-])([O-])=O.[K+].[K+]
reactant | O,O-diethyl chlorothiophosphate | 9.4 g | P(=S)(OCC)(OCC)Cl | C4H10ClO2PS
reactant | 2-cyano-3-hydroxy-5-n-butoxy-thiophene | 9.8 g | C(#N)C=1SC(=CC1O)OCCCC | C9H11NO2S
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2-cyano-3-(diethoxythiophosphoryloxy)-5-n-butoxy-thiophene | 14 g | C(#N)C=1SC(=CC1OP(=S)(OCC)OCC)OCCCC | C13H20NO4PS2
